US06486155B1
A solution of 2-bromo-4,5-dimethoxybenzaldehyde dimethyl acetal (14.8 g) in tetrahydrofuran (50 ml) is cooled to −70° C., and thereto is added dropwise a 1.6 M solution of n-butyl lithium in hexane (33.4 ml) under nitrogen atmosphere over a period of 20 minutes. The mixture is reacted at −60T for 30 minutes, and thereto is added dropwise a solution of 2,3,4-trimethoxybenz aldehyde (10.0 g) in tetrahydrofuran (30 ml) over a period of 10 minutes. After reaction for one hour, to the mixture are added water and ethyl acetate (200 ml). The ethyl acetate layer is separated, washed, dried, and thereto is added an acidic ion-exchange resin (IRA-120) (7.0 g). The mixture is allowed to stand at room temperature for one hour. The mixture is filtered, and the filtrate is concentrated under reduced pressure. To the resultant are added pyridine (150 ml), 1.8M aqueous potassium hydroxide solution (150 ml), and the mixture is warmed to 80T. To the mixture is added solid potassium permanganate (24.1 g) in portions, and the mixture is reacted at the same temperature for one hour. The insoluble materials are removed by filtration, and to the filtrate are added conc. hydrochloric acid (200 ml) and ethyl acetate (300 ml) under ice-cooling. The ethyl acetate layer is separated, washed, dried, and concentrated under reduced pressure. The residue is crystallized from diethyl ether to give 4,5-dimethoxy-6-(2,3,4-trimethoxybenzoyl)benzoic acid (7.72 g) as listed in Table 52.

reactant | 2-bromo-4,5-dimethoxybenzaldehyde dimethyl acetal | 14.8 g | COC(C1=C(C=C(C(=C1)OC)OC)Br)OC | C11H15BrO4
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2,3,4-trimethoxybenz aldehyde | 10.0 g | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | 33.4 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 4,5-dimethoxy-6-(2,3,4-trimethoxybenzoyl)benzoic acid | 7.72 g | COC1=CC=C(C(=O)O)C(=C1OC)C(C1=C(C(=C(C=C1)OC)OC)OC)=O | C19H20O8
